US07314886B2
50.A. Synthesis of 2-(1,8-Diethyl-9-methyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid
Following the procedure of example 49.A. except using (1,8-Diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid as the indole component afforded the title compound as an oil.

reactant | (1,8-Diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid | C(C)C1(OCCC2=C1NC1=C(C=CC=C21)CC)CC(=O)O | C17H21NO3
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 2-(1,8-Diethyl-9-methyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid | C(C)C1(OCCC2=C1N(C1=C(C=CC=C21)CC)C)CC(=O)O | C18H23NO3
